US04496720
3.5 ml (55 mmoles) of chloroacetonitrile were added to a refluxing solution of 11.0 g (44 mmoles) of 3,4-dichlorophenylthio(trimethyl)silane in a mixture of 25 ml of acetonitrile and 10 ml of hexamethylphosphoric triamide and the reaction was complete with 2 minutes. The residue obtained after evaporation of the acetonitrile was dissolved in ethyl acetate, and the solution was washed with water, dried and evaporated to dryness to obtain 9.30 g (93% yield) of (3,4-dichlorophenylthio)acetonitrile boiling at 127°-130° C./0.4 mm Hg and having a refractive index of nD25 =1.5920.

reactant | chloroacetonitrile | 55 mmoles, 3.5 ml | ClCC#N | C2H2ClN
reactant | 3,4-dichlorophenylthio(trimethyl)silane | 44 mmoles, 11.0 g | ClC=1C=C(C=CC1Cl)S[Si](C)(C)C | C9H12Cl2SSi
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | hexamethylphosphoric triamide | 10 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | (3,4-dichlorophenylthio)acetonitrile | 9.30 g, 93% yield | ClC=1C=C(C=CC1Cl)SCC#N | C8H5Cl2NS
